US07691841B2
N-({[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-carbamoyl}-methyl)-2-methoxy-benzamide
A solution of 2-methoxybenzoic acid in dimethylformamide is treated with triethylamine (2 M equivalents) and [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate (1 M equivalent). To the reaction mixture is added a solution of 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide (1 M equivalent) in dimethylformamide and left to stir for 1.5 hours. The reaction mixture is diluted with chloroform/methanol 50:50 and applied to a SCX-3 1 g cartridge. The cartridge is washed with chloroform/methanol 50:50, and the compound eluted with a solution of 10% ammonia in methanol. The solvent is evaporated to afford the title compound.

reactant | 2-methoxybenzoic acid | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
reactant | triethylamine | 2 M | C(C)N(CC)CC | C6H15N
reactant | [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate | 1 M | F[P-](F)(F)(F)(F)F.CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
reactant | 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide | 1 M | NCC(=O)NCC1CN(C1)CC1=CC(=C(C=C1)Cl)Cl | C13H17Cl2N3O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | N-({[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-carbamoyl}-methyl)-2-methoxy-benzamide | ClC=1C=C(CN2CC(C2)CNC(=O)CNC(C2=C(C=CC=C2)OC)=O)C=CC1Cl | C21H23Cl2N3O3
